US08957203B2
Tripeptide Elements
O-(7-Azabenzotriazol-1-yl)-N,N,N′,N′-tetramethyluronium hexafluorophosphate (HATU, 31.7 g, 83 mmol) was added to a solution of (2S,4R)-methyl 4-hydroxypyrrolidine-2-carboxylate HCl (16.68 g, 92 mmol), (3R)-2-((tert-butoxycarbonyl)amino)-3,5-dimethylnon-8-enoic acid (25 g, 83 mmol) and NEt3 (34.9 mL, 250 mmol) in DCM (250 mL) and stirred at RT for 16 h. The reaction was washed with 1N HCl (3×) and then brine. The organics were dried with magnesium sulfate, filtered and concentrated under vacuum. The crude material was purified via silica gel chromatography using 20-60% Acetone in hexanes to give the desired product (2S,4R)-methyl 1-((2S,3R)-2-((tert-butoxycarbonyl)amino)-3,5-dimethylnon-8-enoyl)-4-hydroxypyrrolidine-2-carboxylate (10.8 g, 30% yield), MS: MS m/z 427.2 (M++1) and the undesired product (2S,4R)-methyl 1-((2R,3R)-2-((tert-butoxycarbonyl)amino)-3,5-dimethylnon-8-enoyl)-4-hydroxypyrrolidine-2-carboxylate (12 g, 34% yield), MS: MS m/z 427.2 (M++1).

reactant | O-(7-Azabenzotriazol-1-yl)-N,N,N′,N′-tetramethyluronium hexafluorophosphate | 83 mmol, 31.7 g | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1N=CC=C2)OC(=[N+](C)C)N(C)C
reactant | (2S,4R)-methyl 4-hydroxypyrrolidine-2-carboxylate HCl | 92 mmol, 16.68 g | Cl.O[C@@H]1C[C@H](NC1)C(=O)OC
reactant | (3R)-2-((tert-butoxycarbonyl)amino)-3,5-dimethylnon-8-enoic acid | 83 mmol, 25 g | C(C)(C)(C)OC(=O)NC(C(=O)O)[C@@H](CC(CCC=C)C)C | C16H29NO4
reactant | NEt3 | 250 mmol, 34.9 mL | CCN(CC)CC | C6H15N
solvent | DCM | 250 mL | C(Cl)Cl | CH2Cl2
product | (2S,4R)-methyl 1-((2S,3R)-2-((tert-butoxycarbonyl)amino)-3,5-dimethylnon-8-enoyl)-4-hydroxypyrrolidine-2-carboxylate | 10.8 g, 30% yield | C(C)(C)(C)OC(=O)N[C@H](C(=O)N1[C@@H](C[C@H](C1)O)C(=O)OC)[C@@H](CC(CCC=C)C)C | C22H38N2O6
